US09034866B2
Synthesis of methyl 2-chloro-6,7-dihydroimidazo[1,2-d]pyrido[3,2-b][1,4]oxazepine-9-carboxylate
DIAD (24 g, 113.74 mmol, 2.00 equiv) was added dropwise to a stirred solution of 6-chloro-2-iodopyridin-3-ol (15 g, 58.72 mmol, 1.00 equiv), 2-(1H-imidazol-2-yl)ethan-1-ol (13.1 g, 116.83 mmol, 2.00 equiv), and PPh3 (31 g, 118.19 mmol, 2.00 equiv) in N,N-dimethylformamide (550 mL) at 0° C. The resulting solution was stirred overnight at room temperature and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (100:1-2:1). This resulted in 13.6 g (66%) of 6-chloro-3-[2-(1H-imidazol-2-yl)ethoxy]-2-iodopyridine as a yellow solid. A mixture of this intermediate (10.2 g, 29.18 mmol, 1.00 equiv), L-Proline (0.67 g, 0.20 equiv), potassium carbonate (6 g, 43.41 mmol, 1.50 equiv), and copper(I) iodide (553 mg, 2.90 mmol, 0.10 equiv) in N,N-dimethylformamide (150 mL) was stirred for 24 h at 50° C. The reaction mixture was cooled to room temperature, diluted with water, extracted with ethyl acetate, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1/10-1/1). This resulted in 3.9 g (60%) of 2-chloro-6,7-dihydroimidazo[1,2-d]pyrido[3,2-b][1,4]oxazepine as a white solid. NIS (1.218 g, 5.41 mmol, 10.00 equiv) was added in portions to a stirred solution of this intermediate (120 mg, 0.54 mmol, 1.00 equiv) in N,N-dimethylformamide (30 mL) at room temperature. After being stirred for 12 h at 80° C. the resulting solution was diluted with ethyl acetate, washed with 5% of Na2S2O3 and brine, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1/2). This resulted in 210 mg (crude) of 2-chloro-9,10-diiodo-6,7-dihydroimidazo[1,2-d]pyrido[3,2-b][1,4]oxazepine as a brown solid. Ethylmagnesium bromide (1 M, 8 mL, 1.00 equiv) was added dropwise to a stirred solution of this intermediate (3.8 g, 8.03 mmol, 1.00 equiv) in tetrahydrofuran (100 mL) at −5° C. The resulting solution was stirred for 15 min at −5° C. and quenched with water, extracted with ethyl acetate, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1/10-1/4). This resulted in 2 g (72%) of 2-chloro-9-iodo-6,7-dihydroimidazo[1,2-d]pyrido[3,2-b][1,4]oxazepine as a white solid. Into a 20-mL sealed tube purged and maintained with an inert atmosphere of CO(g) was placed a solution of this intermediate (600 mg, 1.73 mmol, 1.00 equiv), TEA (696 mg, 6.88 mmol, 4.00 equiv), Pd(dppf)Cl2 (138 mg, 0.19 mmol, 0.10 equiv) in methanol (4 mL). The resulting solution was stirred for 6 h at 30° C., diluted with 20 mL of H2O, extracted with 3×50 mL of ethyl acetate, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (5:1). This resulted in 450 mg (93%) of the titled compound as a yellow solid. M+1=280.

reactant | DIAD | 113.74 mmol, 24 g, 2.00 equiv | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 6-chloro-2-iodopyridin-3-ol | 58.72 mmol, 15 g, 1.00 equiv | ClC1=CC=C(C(=N1)I)O | C5H3ClINO
reactant | 2-(1H-imidazol-2-yl)ethan-1-ol | 116.83 mmol, 13.1 g, 2.00 equiv | N1C(=NC=C1)CCO | C5H8N2O
reactant | PPh3 | 118.19 mmol, 31 g, 2.00 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | L-Proline | 0.67 g, 0.20 equiv | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 43.41 mmol, 6 g, 1.50 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | NIS | 5.41 mmol, 1.218 g, 10.00 equiv | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | Ethylmagnesium bromide | 1 M, 8 mL, 1.00 equiv | C(C)[Mg]Br
solvent | N,N-dimethylformamide | 550 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
solvent | H2O | 20 mL | O | H2O
catalyst | copper(I) iodide | 2.90 mmol, 553 mg, 0.10 equiv | [Cu]I
catalyst | Pd(dppf)Cl2 | 0.19 mmol, 138 mg, 0.10 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 2-chloro-6,7-dihydroimidazo[1,2-d]pyrido[3,2-b][1,4]oxazepine-9-carboxylate | 450 mg, 93% | ClC=1C=CC=2OCCC=3N(C2N1)C=C(N3)C(=O)OC | C12H10ClN3O3
